Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Seizure, altered mental status
.  
Reason for MICU transfer: Massive PE, intubated on pressors

 
Major Surgical or Invasive Procedure:
ACLS for pulselessness
 
History of Present Illness:
___ year old female with h/o HIV on HAART (CD4 1049) and recent 
L5-S1 fusion 3 weeks ago who presents with hypotension and 
seizures.
.
She was admitted ___ to ___ for L5-S1 fusion that was 
uncomplicated.  She was not discharged on DVT prophylaxis given 
the surgery.  She was at rehab until about 1 week ago.  This 
morning, she complained of palpitations as well as leg pain 
which was new.  Then her physical therapist noted a low BP 
(unclear reading) and felt that she may be dehydrated.  She also 
complained of chest pain.  Later, her ___ noted low BP as well.  
Her daughter then witnessed a tonic-clonic seizure where the 
patient fell back on the bed and her eyes rolled back in her 
head and her extremities were shaking.  She has never had 
seizures prior.  EMS was called.  BP on arrival by EMS was 
60/palp which improved to 74/palp after 500cc IVF.

In the ED, she was hypotensive and initially given aspirin and 
morphine.  CTA showed massive saddle PE.  She was hypotensive 
with SBP in the 30___s and was intubated and started on peripheral 
levophed.  Also given 6L fluid.  TPA was then initiated at 21:39 
(100mg IV over 20 minutes).  Sedated with versed and fentanyl.  
Phenylephrine was started when she maxed out on levophed.  SBP 
decreased to the 50's and she lost a pulse and chest 
compressions were started, 1mg epi given, pulse returned after 1 
minute.  Cardiology was consulted but declined to take her to 
the cath lab.  Her BP's began to improve and SBP was 170's and 
pressors were weaned.  Currently SBP in the 90's on 
neosynephrine only, HR 90's (previously 140-150).  Thoracic 
surgery also aware and discussing patient's case.  She then 
received 5000unit heparin bolus plus started on heparin drip at 
1000 units/hr.

 
Past Medical History:
Recent L4-S1 fusion ___, planned decompression ___
HIV
Hepatitis B, suppressed on Combivir
Hepatitis C, never treated, genotype 1 with stage 2 fibrosis
HTN
Obesity
Arthritis
Benign colon polyps
Bilateral tubal ligation
ORIF wrist
Knee arthroscopy
H/o TKR

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 96.0 92/44 100 24 100% PS ___ FiO2 100%
General: Intubated and partially sedated, moving all four 
extremities and opens eyes to voice and to tactile stimulation
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: Supple, JVP difficult to appreciate, no LAD
CV: Regular rate and rhythm with II/VI systolic murmur heard 
best at apex and LLSB, no longer audible after blood pressure 
decreased
Lungs: Clear to auscultation bilaterally with ventilated breath 
sounds
Abdomen: Soft, recent well-healed surgical scar, non-tender, 
non-distended, bowel sounds hypoactive
GU: Foley in place  
Ext: Warm, well perfused, 2+ DP pulses, no clubbing, cyanosis or 
edema
.
DISCHARGE PHYSICAL EXAM:
Vitals: T 98.8 HR 64 BP 140/70 RR 20 O2 Sat 96% on RA
General: Patient sitting up in bed in no acute distress. 
HEENT: EOMI. PERRL. Sclera anicteric, MMM, oropharynx clear
Neck: Supple, JVP 6cm above the sternal notch, no LAD
CV: Regular rate and rhythm with II/VI systolic murmur heard 
best at apex and LLSB. Prominent S2 on exam.
Lungs: Clear to auscultation bilaterally. No crackles or wheezes 
on exam. 
Abdomen: Obese. Soft, recent well-healed surgical scar, 
non-tender, non-distended, BS+.
GU: No Foley
MSK: Back incision well-healed without drainage, tenderness, or 
erythema. 
Ext: Warm, well perfused, 2+ DP pulses, no clubbing, cyanosis or 
edema

 
Pertinent Results:
ADMISSION LABS:
___ 08:30PM   PLT COUNT-390#
___ 08:30PM   NEUTS-52.2 ___ MONOS-4.0 EOS-1.6 
BASOS-0.2
___ 08:30PM   WBC-9.5 RBC-2.82* HGB-10.3* HCT-29.2* 
MCV-104*# MCH-36.5* MCHC-35.2* RDW-18.4*
___ 08:30PM   CALCIUM-8.6 PHOSPHATE-4.1# MAGNESIUM-2.0
___ 08:30PM   cTropnT-0.20*
___ 08:30PM   estGFR-Using this
___ 08:30PM   GLUCOSE-268* UREA N-9 CREAT-0.8 SODIUM-136 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-11* ANION GAP-26*
.
DISCHARGE LABS:
.
___ 05:10AM BLOOD WBC-5.6 RBC-2.46* Hgb-8.7* Hct-25.1* 
MCV-102* MCH-35.3* MCHC-34.6 RDW-20.0* Plt ___
___ 05:10AM BLOOD ___ PTT-97.2* ___
___ 05:10AM BLOOD Glucose-92 UreaN-7 Creat-0.5 Na-139 K-3.5 
Cl-107 HCO3-25 AnGap-11
___ 05:10AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.8
.
MICROBIOLOGY:
.
Blood and urine cultures pending.
.
IMAGING:
CTA: 
FINDINGS: 
There is adequate opacification of the pulmonary arterial tree. 
The main 
pulmonary artery is enlarged, measuring up to 3.0 cm, and there 
are extensive pulmonary emboli, including a large saddle embolus 
and additional emboli extending into both the right and left 
main pulmonary arteries and peripheral pulmonary arterial tree. 
There is no associated pulmonary infarct. However, there is 
evidence of right heart strain, including dilation of the right 
atrium and right ventricle, leftwardbowing of the 
interventricular septum, and reflux of contrast into the IVC and 
hepatic veins. The aorta is normal. There is no evidence of 
acute aortic syndrome. There is no mediastinal or hilar 
lymphadenopathy. There is no pericardial effusion or pleural 
effusion.  There is atelectasis medially at the right lung base. 
There is no evidence of pneumonia. There is no pulmonary nodule 
or mass identified.  In the included upper abdomen, there is a 
single hypodensity within the left lobe of the liver, too small 
to characterize, though likely a cyst. There is no acute 
intra-abdominal process identified.   
BONE WINDOWS: There are no lytic or sclerotic osseous lesions 
identified 
concerning for malignancy.   
IMPRESSION:  
1. Massive saddle pulmonary emboli, extending into both the 
right and left 
main pulmonary arteries and all aspects of the pulmonary 
arterial tree.    
2. Evidence of right heart strain, including dilation of the 
right atrium and right ventricle and bowing of the 
interventricular septum. Prominent main PA suggest associated 
pulmonary hypertension. 
3. Minor right basilar atelectasis. No evidence of pulmonary 
infarct. 
.
ECHO:
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). The right 
ventricular cavity is markedly dilated with severe global free 
wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. Severe 
[4+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. [In the setting of at 
least moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] There is no pericardial 
effusion. 
IMPRESSION: Dilated right ventricle with severe systolic 
dysfunction. Severe functional tricuspid regurgitation. At least 
moderate pulmonary hypertension. Small, hypertrophied left 
ventricle with preserved global and regional systolic function.  

.
CXR: FINDINGS: Right lower lung atelectasis and minimal right 
pleural effusion are no different from prior radiograph dated 
___. Mild vascular engorgement is similar to the 
prior radiograph. Moderate cardiomegaly is stable. Mediastinal 
and hilar contours are unchanged. No new lung opacities of 
concern. Left PICC line terminates at upper SVC. 
IMPRESSION: Since ___, the right minimal pleural 
effusion and lower lung atelectasis are unchanged. 

 
Brief Hospital Course:
*Anticipated stay at rehab facility is less than 30 days.*
.
___ year old female with h/o HIV on HAART (CD4 1049) and recent 
L5-S1 fusion 3 weeks prior to admission who presented with 
hypotension and experienced cardiac arrest while in the ED, 
found to have massive PE.
.
# Massive PE with hypotension/shock: PE occurred in post-op 
setting. Received TPA in the ED with some improvement in 
hemodynamics but then became pulseless. She was coded in the ED 
with return of pulse. She was initially on pressors but was then 
able to be weaned off in the MICU.  Also had some demand 
ischemia with elevated cardiac enzymes that trended down 
afterwards. TTE showed global RV dilation/disfunction and severe 
TR w/ preserved LVEF. She was initially treated with IV heparin 
and was starting to be bridged to warfarin therapy. Prior to 
discharge, the heparin drip was discontinued, and the patient 
was started on Lovenox ___ subcuntaneously every 12 hours 
daily. The Lovenox was discontinued when her INR was 
therapeutic. She was discharged on warfarin 3mg orally daily. 
Her INR on day of discharge was 2.4. She will need to be set up 
with ___ clinic as an outpatient for INR monitoring. 
.  
# Hypoxia/Tachypnea: Patient successfully extubated ___ and 
upon arrival to the medicine floor was tachypnic breathing in 
the high ___, low ___ with 3 liters of supplemental oxygen. She 
remained stable, and on day of discharge, the oxygen was weaned 
with a respiratory rate in the ___. 
.
#Altered Mental Status: There was concern during the admission 
on the medicine floor that the patient had acutely developed 
altered mental status. Her neurological exam was non-focal and 
consistent with her exam on presentation to the medicine floor. 
Despite being afebrile without a leukocytosis, an infectios 
work-up was repeated. So far, this work-up has returned 
negative.   
.
# Anemia: Hct had trended down from 29 on admission to 25 at 
present. An active type and screen was maintained through the 
entire admission. She required no trasnfusions. She remains 
hemodynamically stable, with no evidence of active bleeding at 
present. She did have some mild oozing from OGT while in ICU, 
and she was started on ranitidine out of concern for GI bleed. 
Propton pump inhibitor was contraindicated given the iteraction 
with nelfinavir (part of HARRT regimen). 
.  
# Transaminitis: During the admission, AST as high as 2000s and 
ALT in 700s. While the patient does have h/o HBV and HCV, acute 
rise was likely secondary to shock liver versus hepatic 
congestion in setting of severe RV failure. His LFTs were 
trended through the admission and steadily fell during the 
admission. 
.  
# Elevated troponin: Trop peaked at 1.11 and has since trended 
down.  
Elevation was in setting of massive PE, shock, right heart 
strain and delivery of chest compressions. TTE showed dilated RV 
with severe systolic dysfunction. MB remained flat. 
.
#Idioventricular rhythm: The patient was monitored on telemetry 
through her admission. She remained mostly in sinus rhythm 
during her hospitalization, but she was noted to have times of 
broad QRS complexes without preceding P waves. These telemetry 
findings were confirmed on EKG. Cardiac enzymes were cycled and 
were flat. Cardiology was consulted and felt her rhythm was from 
an irritable focus secondary to her ventricular remodeling in 
the presence of her massive pulmonary embolism.  Cardiology 
recommended that the patient's metoprolol be stopped. Her 
metoprolol was discontinued.
.  
# Complicated Urinary Tract Infection: Patient with fever of 
100.4 on day prior to admission to the medicine floor. Through 
her admission on the medicine floor, the patient remained 
afebrile. Fever may be secondary to PE, liver dysfunction. No 
clear source of infection, as no consolidation on recent CXR; 
blood cultures remain negative to date. No leukocytosis. On day 
of discharge, the patient's urine culture returned showing 
enterococcus in the urine susceptible to ampicillin, macrobid, 
and vancomycin. She was started on Macrobid. Unable to give 
ampicillin secondary to the patient's penicillin allergy. She 
will be continued on Macrobid for a total of 14 days, stop date 
___. The patient will need to have a repeat urine analysis 
on ___ to determine if the patient is still infected. If her 
urine analysis returns suggestive of urinary tract infection, 
send a urine culture and consider starting the patient on 
vancomycin. If her urine analysis is sterile, complete the full 
14-day course of antibiotics. 
.
# Recent L4-S1 spinal surgery: No acute surgical issues at 
present. Ortho was followed the patient and recommended that her 
hematocrit be monitored given her recent surgery and TPA 
administration.   
.  
# Seizure: Patient reportedly had tonic-clonic seizure at home 
prior to arrival. ___ have been secondary to hypoxia veresus 
acidosis from massive PE and shock. No evidence of seizure 
activity this admission, and no prior history of seizure. 
Infectious work-up negative to date, with negative urine 
culture, no PNA on CXR, and blood cultures negative to date.   
.  
# Constipation: Aggressive bowel regimen with colace, senna, 
miralax and bisacodyl.  
.  
# Pain control: Patient had pleuritic chest pain secondary to 
chest compressions done during ACLS in the emergency department. 
When patient complained of worsening chest pain, EKGs were done 
that did not show significant differences from prior EKGs. 
Cardiac enzymes were flat on the day of discharge. Her pain was 
controlled with Tramadol 50mg ___ tablets every 6 hours as 
needed for pain. 
.
CHRONIC ISSUES:
.
# HIV: Last CD4 1049 in ___. Her home HARRT was continued 
through this admission. No changes were made. 
.
# Hepatitis B: Home ARV was continued through the admission. No 
changes were made.
.
# HTN: SBP elevated in 140s-150s. Home anti-hypertensives were 
held initially given the patient's pressor requirement. Upon 
presentation to the floor, the patient's home blood pressure 
medications were restarted. Her pressures remained elevated and 
thus her home lisinopril was increased to 10mg daily. Her home 
metoprolol was discontinued in the setting of idioventricular 
rhythm.  
.
#HCV: Patient not currently undergoing active treatment for HCV. 

.
TRANSITIONAL ISSUES:
.
-Outpatient INR follow-up to ensure that the patient is 
therapeutic on warfarin. INR needs to be between 2 and 3. 
Duration of anticoagulation therapy will last at least 6 months. 
Patient will need to have regular INR checks and warfarin 
titrated to maintain therapeutic INR. 
.
-Patient will need outpatient follow-up with her infectious 
disease doctor in regards to management of her HIV, HBV, and 
HCV. 
.
-follow-up of pending blood cultures
.
-Patient will need to be on 100mg nitrofurantoin orally twice 
daily for 14 days for urinary tract infection.
.
-The patient will need to have a repeat urine analysis on 
___ to determine if the patient is still infected. If her 
urine analysis returns suggestive of urinary tract infection, 
send a urine culture and consider starting the patient on 
vancomycin. If her urine analysis is sterile, complete the full 
14-day course of antibiotics. 

 
Medications on Admission:
Lamivudine-zidovudine 150-300mg po bid
Nelfinavir 1250mg po bid
Gabapentin 300mg po qhs
Trazodone 150mg po qhs
Omeprazole 20mg po daily prn GERD
Oxycodone 10mg po q4h prn pain
Metoprolol tartrate 50mg po bid
KCL 20mEq po daily
Lisinopril 2.5mg po daily

 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
2. gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
3. trazodone 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
4. nelfinavir 625 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
5. lamivudine-zidovudine 150-300 mg Tablet Sig: One (1) Tablet 
PO BID (2 times a day).  
6. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) as needed for thrush for 10 days.  
8. methyl salicylate-menthol     Ointment Sig: One (1) Appl 
Topical PRN (as needed) as needed for discomfort.  
9. Outpatient Lab Work
Please check INR and CBC ___, and ___.
10. warfarin 3 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
11. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. potassium chloride 10 mEq Capsule, Extended Release Sig: One 
(1) Capsule, Extended Release PO once a day.  
13. albuterol sulfate 0.63 mg/3 mL Solution for Nebulization 
Sig: One (1) nebulizer Inhalation every six (6) hours as needed 
for shortness of breath or wheezing.  
14. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. nitrofurantoin monohyd/m-cryst 100 mg Capsule Sig: One (1) 
Capsule PO Q12H (every 12 hours) for 14 days: Start date ___. 
Stop date ___.  
16. mirtazapine 30 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
17. tramadol 50 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Pulmonary embolism

Secondary diagnosis:
HIV
HBV
HCV
Hypertension
s/p recent L4-S1 spinal surgery
Complicated urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were hospitalized 
because of a massive Pulmonary Embolism (a large blood clot in 
your lungs).  This blood clot likely came after your surgery, 
and formed in your legs then traveled to your lungs.  You were 
given medications to thin your blood, and will continue 
treatment for at least 6 more months.
.
You have been started on a medication called warfarin (AKA 
Coumadin).  This medication thins your blood.  The effects of 
this medication are checked with a blood test called the 
international normalized ratio (AKA INR).  Your INR is a number 
that reflects the "thinness" of your blood, and the goal INR for 
your treatment is between ___.  Your INR will need to be checked 
frequently in the beginning of your treatment ___ times a 
week), and will gradually be checked less ___ times a month) as 
your medical team helps adjust your medication to keep your INR 
between ___.  You should anticipate occassional warfarin dose 
adjustments (maybe more in the beginning), in order to keep your 
INR in the ___ range.  Warfarin metabolism is affected by the 
foods you eat, specifically leafy green vegetables.  You can eat 
the same foods you usually eat, but avoid drastically changing 
your diet and speak with your physician before changing your 
diet as your warfarin dose may need to be adjusted.  While on 
warfarin, you are at increased risk of bleeding.  If you notice 
severe bleeding, including rectal bleeds, bleeding from the 
urethra, or nosebleeds, contact your physician.  It is important 
that if you suffer a fall or traumatic injury while taking 
warfarin that you call your doctor or report to the emergency 
room for evaluation to make sure you are not bleeding 
internally.
.
Please take all medications as instructed. Please note the 
following medication changes:
*NEW:
-Warfarin 3mg orally daily (oral blood thinning medication; note 
that the dose may have to be changed)
-nystatin  100,000 unit/mL Suspension  Sig:  Five (5) ML orally 
4 times a day for thrush for 10 days.     
-ranitidine 150 mg oral daily (acid suppression medication)
-Senna 8.6 mg tablets 2x a day as needed for constipation 
(stimulant laxative)
-Colace 100 mg capsule 2x a day (stool softener)
-Methyl salicylate-menthol oitnment apply topically as needed 
for pain
-Nitrofurantoin 100mg orally twice daily for 14 days
-Tramadol 50mg ___ pills every 6 hours as needed for pain.
.
*CHANGED:
-Increase your dose of lisinopril from 2.5mg to 10mg by mouth 
daily.
-Decreased the dose of your potassium chloride pill to 10mEq (1 
tab) per day.
.
*STOPPED: Stopped home Percocet.  Please stop your home 
metoprolol as well. 
.
Please arrange with your rehab facility making a hospital 
follow-up appointment with your primary care physician ___ 2 
weeks of discharge. You will need to be followed the ___ 
clinic for monitoring of your blood INR while you are on 
Coumadin (also known as warfarin)

*Anticipated stay at rehab is less than 30 days.* 
 
Followup Instructions:
___